US07163940B2
7-Chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine (25 mg, 0.077 mmol) and excess of methylamine in alcohol (1 mL) in sealed tube was heated at 120° C. for overnight. The mixture was evaporated to dryness and purified by preparative thin layer chromatography to give 2-(4-fluorophenyl)-N-methyl-3-(4-pyridinyl)pyrazolo[1,5-α]pyridin-7-amine a peach solid in 77.3% yield. 1H NMR (CDCl3): δ 8.59 (d, 2H, J=5.4 Hz), 7.58–7.62 (m, 2H), 7.28–7.30 (m, 3H), 7.07–7.14 (m, 3H), 6.11 (bs, 1H), 6.00 (d, 1H, J=7.4 Hz), 3.16 (d, 3H, J=5.0 Hz); MS (ES+ve): 320 (18, M+2), 319 (20, M+1), 318 (100, M+).

reactant | 7-Chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine | 0.077 mmol, 25 mg | ClC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H11ClFN3
reactant | methylamine | CN | CH5N
product | 2-(4-fluorophenyl)-N-methyl-3-(4-pyridinyl)pyrazolo[1,5-α]pyridin-7-amine | 77.3% yield | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2NC)=C1C1=CC=NC=C1 | C19H15FN4
